US06255333B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-phenylpyrazole
A solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (0.245 g) in ethanol (2 ml) was added to benzoylacetonotrile (0. 145 g) in ethanol (8 ml) and the solution heated at 80° C. for 6 hours. Glacial acetic acid (1 ml) was added and the mixture heated at 80° C. for 4 hours and then 90° C. for 2 hours. The reaction mixture was evaporated and the residue purified by column chromatography on silica gel (10 g) eluted with dichloromethane. Combination and evaporation of appropriate fractions followed by further purification of their residue by reverse phase high performance liquid chromatography on C18 silica eluted with methanol: acetonitrile: water (1:5:4). Combination and evaporation of appropriate fractions gave the title compound as a white solid m.p. 141.5-142.5° C.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 0.245 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-phenylpyrazole | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=CC=CC=C1 | C16H10Cl2F3N3
